US06953790B2
Step D. Benzyl (3R)-6-(2,3-difluorophenyl)-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
[1,3-bis-(2,4,6-Trimethylphenyl-2-imidazolidinylidene)dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium] (Grubbs second generation catalyst) (2.62 g, 3.09 mmol) was added to a solution of benzyl (1R)-1-{[[2-(2,3-difluorophenyl)prop-2-enyl](2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate (6.8 g, 12.35 mmol) in dichloromethane (1800 mL) and the solution was heated to 40° C. After 48 h, additional catalyst was added (0.52 g, 0.61 mmol) and the reaction continued to heat at 40° C. for an additional 48 h. The mixture was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→55% ethyl acetate/hexanes) gave the title compound (3.71 g). MS 523.1 (M+1).

reactant | benzyl (1R)-1-{[[2-(2,3-difluorophenyl)prop-2-enyl](2,4-dimethoxybenzyl)amino]carbonyl}but-3-enylcarbamate | 12.35 mmol, 6.8 g | FC1=C(C=CC=C1F)C(CN(C(=O)[C@@H](CC=C)NC(OCC1=CC=CC=C1)=O)CC1=C(C=C(C=C1)OC)OC)=C | C31H32F2N2O5
catalyst | Grubbs second generation | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | dichloromethane | 1800 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-6-(2,3-difluorophenyl)-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 3.71 g | FC1=C(C=CC=C1F)C1=CC[C@H](C(N(C1)CC1=C(C=C(C=C1)OC)OC)=O)NC(OCC1=CC=CC=C1)=O | C29H28F2N2O5
